US06002008
4-(5-Chloro-2-methoxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 367, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 12 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 189.1 mg (1.2 mmol) of 5-chloro-o-anisidine to give 240.5 mg (65.0%) of the product as a cream solid, m.p. 200-202° C., mass (electrospray, m/e): M+H 369.9, 371.8.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 5-chloro-o-anisidine | 1.2 mmol, 189.1 mg | ClC1=CC=C(C(OC)=C1)N | C7H8ClNO
solvent | 2-ethoxyethanol | 12 mL | C(C)OCCO | C4H10O2
product | 4-(5-Chloro-2-methoxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 240.5 mg, 65.0% | ClC=1C=CC(=C(C1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N)OC | C19H16ClN3O3
